US08957215B2
A mixture of 2-bromo-1,3-benzothiazol-6-amine (53 mg, 0.23 mmol), 2-methoxy-5-pyridineboronic acid (50 mg, 0.327 mmol), Pd(dppf)Cl2*DCM (8 mg, 0.01 mmol) and sodium carbonate (0.1 g, 1 mmol) in THF/water (9:1, 3 mL) was heated at 140° C. for 10 minutes in a microwave reactor under argon atmosphere. The mixture was filtered and washed with THF/water (9:1). After having added DCM to the filtrate, the organic layer to was washed with brine, dried (Na2SO4), filtered and concentrated. The crude product was purified by flash column chromatography (20 to 70% ethyl acetate in heptane), to yield the title compound (57 mg) as an off-white solid. 1H NMR. (CHLOROFORM-d) δ 8.68 (d, 1H) 8.16 (dd, 1 H) 7.74 (d, 1 H) 7.06 (d, 1 H) 6.70-6.81 (m, 2 H) 3.94 (s, 3 H) 3.77 (s, 2 H); MS m/z (M+H) 258.

reactant | 2-bromo-1,3-benzothiazol-6-amine | 0.23 mmol, 53 mg | BrC=1SC2=C(N1)C=CC(=C2)N | C7H5BrN2S
reactant | 2-methoxy-5-pyridineboronic acid | 0.327 mmol, 50 mg | COC1=NC=C(C=C1)B(O)O | C6H8BNO3
reactant | sodium carbonate | 1 mmol, 0.1 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF water | 3 mL | C1CCOC1.O
catalyst | Pd(dppf)Cl2 | 0.01 mmol, 8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(6-Methoxypyridin-3-yl)-1,3-benzothiazol-6-amine | 57 mg | COC1=CC=C(C=N1)C=1SC2=C(N1)C=CC(=C2)N | C13H11N3OS
